US03936464
Preparation of 1-acetyl-3-[2-(3,6-dihydro-4-phenyl-1(2H)-pyridyl)ethyl]indoline
A mixture of 2.68 g. of 1-acetyl-3-(2-bromoethyl)-indoline, 2.00 g. of 4-phenyl-1,2,3,6-tetrahydropyridine hydrochloride and 4.00 g. of sodium bicarbonate in 40 ml. of sec-butyl alcohol is stirred at reflux temperature for 18 hours. The cooled mixture is filtered, and the filtrate is evaporated. The residue is dissolved in acetone and the addition of water gives white crystals, m.p. 109°-111°C.

reactant | 1-acetyl-3-(2-bromoethyl)-indoline | C(C)(=O)N1CC(C2=CC=CC=C12)CCBr | C12H14BrNO
reactant | 4-phenyl-1,2,3,6-tetrahydropyridine hydrochloride | Cl.C1(=CC=CC=C1)C=1CCNCC1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | sec-butyl alcohol | C(C)(CC)O | C4H10O
product | 1-acetyl-3-[2-(3,6-dihydro-4-phenyl-1(2H)-pyridyl)ethyl]indoline | C(C)(=O)N1CC(C2=CC=CC=C12)CCN1CCC(=CC1)C1=CC=CC=C1 | C23H26N2O
